Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Compazine / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
___ edema, redness
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ yo woman with stage IV high grade B cell non-Hodgkin lymphoma 
with features intermediate between large B cell and Burkitt 
(double hit lymphoma) refractory to DA-EPOCH and RICE, now on 
rituximab monotherapy, who presents to the hospital for 
evaluation of leg edema.  
Patient stated that she shaved her leg three days ago. The next 
day, she noticed worsening erythema and edema in her left leg. 
This was also associated with leg cramps, occurring bilaterally, 
radiating from thigh to ankle. Symptoms also affect her fingers, 
with "my fingers twisting".  
Patient called ___, who recommend her presenting to the 
ED for evaluation.  
In the ED, initial VS were: 97.3 54 150/62 16 99% RA. ___ was 
performed, and there were no evidence of deep venous thrombosis 
in the left lower extremity veins.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___ CT A/P revealing: Large mass involving the pancreatic 
tail with large cystic central portion, which invades the 
spleen. Several liver ill-defined liver lesions are visualized, 
suggestive of metastatic disease
- ___ EUS with FNA revealed: large, heterogenous and 
ill-defined mass was seen of the pancreatic tail measuring at 
least 5.03cm. Left lobe of the liver revealed two large 
hypoehoic liver lesions concerning for metastatic disease
- ___ FNA biopsies revealed: Atypical lymphoid population 
with necrosis Final dx: high grade B cell lymphoma, features
intermediate  between large B cell lymphoma and Burkitt 
lymphoma, Bcl-6 and  CD10 pos, Ki-67 >95%, C-MYC 80% pos.

CHEMOTHERAPY:
___ Cycle #1 DA EPOCH level 1
___ Rituximab #1
___ Cycle #2 DA EPOCH level 1
___ Rituximab #2
___ Cycle #3 DA EPOCH level 2 with IT MTX #1 and #2
___ Rituximab #3
___ Cycle #4 DA EPOCH level 1
___ Rituximab #4
___ Cycle #5 DA EPOCH level 2
___ Rituximab #5
___ Cycle #6 DA EPOCH level 3
___ Rituximab #6
___ ICE #1
___ Rituximab #7
___ ICE #2
___ Rituximab #8
___ - ___ RADIATION 4140 cGy
___ weekly rituximab x 4 
___ cycle #1 lenalidomide 15 mg ___ 
___ cycle #2 lenalidomide 25 mg ___ with monthly 
rituximab
___ cycle #3 lenalidomide 25 mg ___ with monthly 
rituximab
___ cycle #4 lenalidomide 25 mg ___ with rituximab
___ cycle #5 lenalidomide 25 mg ___ with rituximab
___ cycle #6 lenalidomide 25 mg ___ 
___ cycle #7 lenalidomide 25 mg ___ with rituximab

PAST MEDICAL HISTORY:
- Schizophrenia, previously on Clozaril and currently on Haldol
- Glucose Intolerance
- Mesenteric venous thrombosis
- History of rheumatic fever
- L1 compression fracture
- s/p tubal ligation
 
Social History:
___
Family History:
- Mother with carcinoid, uterine cancer 
- Father died of metastatic cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 98.5 62 132/66 20 98% on RA  
GENERAL: NAD  
HEENT: NC/AT, EOMI, PERRL, MMM  
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: clear to auscultation, no wheezes or rhonchi  
ABD: +BS, soft, NT/ND, no rebound or guarding  
EXT: 1+ bilateral pitting edema  
NEURO: CN II-XII intact  
SKIN: Warm and dry, without rashes  

DISCHARGE PHYSICAL EXAM:
Vitals: 98.5, 132/66, 62, 20, 98% on RA, admit weight 170.3lbs 
Gen: Pleasant, calm  
HEENT: oropharynx clear 
NECK: JVP not visualized 
LYMPH: No cervical or supraclav LAD
CV: RRR, nl S1 S2, no murmurs/rubs/gallops    
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS, soft nontender, nondistended
EXT: WWP, DP 2+ b/l, no edema or erythema, ___ symmetric 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses
NEURO: A&Ox3
LINES: PIV 

 
Pertinent Results:
ADMISSION LABS:
___ 01:25PM BLOOD WBC-0.8*# RBC-3.03* Hgb-10.0* Hct-30.6* 
MCV-101* MCH-33.0* MCHC-32.7 RDW-15.2 RDWSD-56.1* Plt Ct-31*#
___ 01:25PM BLOOD Neuts-36 Bands-9* Lymphs-10* Monos-8 
Eos-34* Baso-3* ___ Myelos-0 AbsNeut-0.36* 
AbsLymp-0.08* AbsMono-0.06* AbsEos-0.27 AbsBaso-0.02
___ 01:25PM BLOOD Plt Smr-VERY LOW Plt Ct-31*#
___ 03:30AM BLOOD ___ PTT-33.3 ___
___ 01:25PM BLOOD UreaN-11 Creat-0.8 Na-138 K-3.7 Cl-103
___ 01:25PM BLOOD ALT-36 AST-29 LD(LDH)-136 AlkPhos-140* 
TotBili-0.4
___ 01:25PM BLOOD Albumin-4.1 Calcium-8.3* Phos-3.5 Mg-1.9
___ 01:25PM BLOOD TSH-2.9

DISCHARGE LABS:
___ 03:30AM BLOOD WBC-1.4*# RBC-3.10* Hgb-10.1* Hct-30.6* 
MCV-99* MCH-32.6* MCHC-33.0 RDW-15.1 RDWSD-54.5* Plt Ct-32*
___ 03:30AM BLOOD Neuts-52 Bands-7* Lymphs-3* Monos-14* 
Eos-21* Baso-1 ___ Metas-2* Myelos-0 AbsNeut-0.83* 
AbsLymp-0.04* AbsMono-0.20 AbsEos-0.29 AbsBaso-0.01
___ 03:30AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-OCCASIONAL Ovalocy-1+ Tear 
Dr-1+ Bite-OCCASIONAL
___ 03:30AM BLOOD Glucose-159* UreaN-10 Creat-0.7 Na-140 
K-3.6 Cl-103 HCO3-26 AnGap-15

IMAGING: 
___ LLE DOPPLER US: No evidence of deep venous thrombosis in 
the left lower extremity veins.   
___ CXR: No acute intrathoracic process.

MICROBIOLOGY
___ 03:30AM URINE Color-Straw Appear-Clear Sp ___
___ 03:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ URINE CULTURE PENDING
 
Brief Hospital Course:
___ yo woman with stage IV high grade B cell non-Hodgkin lymphoma 
with features intermediate between large B cell and Burkitt 
(double hit lymphoma) refractory to DA-EPOCH and RICE, now on 
rituximab and lenalidomide, with a history of SMV/portal vein 
thrombosis on chronic anticoagulation, who presented to the 
hospital for evaluation of leg edema and erythema found to have 
no evidence of DVT and resolution ___ edema. 

# Leg edema/erythema: The patient reported a history of left 
lower extremity edema and redness after shaving her legs. The 
patient was evaluated with ___ which showed no DVT. The patient 
did not have evidence of erythema or edema on admission 
suggestive of infection and the patient's lower extremity edema 
resolved. The patient will continue to monitor for additional 
erythema or edema of her extremities and follow up with her 
outpatient providers as needed. 

# Thrombocytopenia: The patient has a history of 
thrombocytopenia with platelet counts generally between 40-60k. 
The patient was found to have decreased platelets, from 78 on 
___ to 31 on ___, lower than her usual baseline. This drop was 
thought to be caused by her lenalidomide. Per outpatient 
provider, the patient was instructed to hold her lovenox until 
___. She will follow up with her oncologist at that 
time for repeat CBC and further management of this medication.  

# Lymphoma: Patient has failed DA-EPOCH-R and R-ICE, now with 
persistent disease, currently on lenalidomide and rituximab. She 
was continued on acyclovir and atovaquone prophylaxis. Her ANC 
on admission was 830. She was instructed per her outpatient 
provider to continue her neupogen as prescribed until ___ 
___. The patient will f/u with her outpatient oncologist for 
further management.

# Intra-abdominal venous thrombosis of the SMV and portal vein, 
diagnosed incidentally on staging imaging in ___: The patient 
had been on chronic anticoagulation with lovenox 60mg subQ 
daily. As above, this medication will be held until ___ 
___ until outpatient oncology f/u. 

# Schizophrenia: continued home Haldol, Zyprexa, Benztropine, 
Sertraline, and Clonazepam
# Hypothyroidism: continued home levothyroxine 
# Overactive bladder: continued tolteradine
# Allergies: continued home certrizine, montelukast   

Transitional Issues:
- Per outpatient provider, hold lovenox until ___. Pt will restart per outpatient oncologist. 
- Per outpatient provider, pt will continue neupogen until 
___. Will follow up with outpatient 
oncologist for further dosing and management 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Benztropine Mesylate 2 mg PO QHS 
4. Cetirizine 10 mg PO DAILY 
5. ClonazePAM 0.5 mg PO BID 
6. Filgrastim 300 mcg SC 2X/WEEK (___) 
7. Haloperidol 2.5 mg PO DAILY 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Montelukast 10 mg PO DAILY 
10. Omeprazole 20 mg PO BID 
11. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
12. Sertraline 100 mg PO DAILY 
13. Tolterodine 4 mg PO DAILY 
14. Vitamin D ___ UNIT PO DAILY 
15. Enoxaparin Sodium 60 mg SC DAILY 
16. lenalidomide 25 mg PO DAILY 
17. Spectravite Adult (multivit with min-folic acid) 200 mcg 
oral DAILY 
18. OLANZapine 15 mg PO QHS 
 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Benztropine Mesylate 2 mg PO QHS 
4. Vitamin D ___ UNIT PO DAILY 
5. Cetirizine 10 mg PO DAILY 
6. ClonazePAM 0.5 mg PO BID 
7. Haloperidol 2.5 mg PO DAILY 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Montelukast 10 mg PO DAILY 
10. OLANZapine 15 mg PO QHS 
11. Omeprazole 20 mg PO BID 
12. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
13. Sertraline 100 mg PO DAILY 
14. Tolterodine 4 mg PO DAILY 
15. Filgrastim 300 mcg SC 2X/WEEK (___) 
16. lenalidomide 25 mg PO DAILY 
17. ___ Adult (multivit with min-folic acid) 200 mcg 
oral DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: stage IV high grade non-Hodgkin lymphoma, unilateral 
lower extremity edema, thrombocytopenia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

Thank you for allowing us to participate in your care at ___! 
You were admitted to the hospital because of swelling and 
redness in your leg. We evaluated you with an ultrasound which 
showed no clot in your leg. You should continue to monitor your 
leg for any additional redness and swelling and call your doctor 
if you have any concern. 

While in the hospital, you were found to have low platelets. 
Your outpatient oncology providers recommended that you hold 
your lovenox until ___ until your follow up 
appointment. You should continue to take your neupogen as 
instructed.

We wish you the best! 
Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___